US07105526B2
(2) Preparation of 2,3-diamino-5-(4-fluorophenyl)pyridine
2-Amino-5-(4-fluorophenyl)-3-nitropyridine (200 mg, 0.86 mmol) was suspended in a mixture of methanol (5 mL), ethyl acetate (5 mL), tetrahydrofuran (5 mL) and triethylamine (2 mL). After addition of 10% palladium carbon (100 mg), the mixture was stirred at room temperature for 1.5 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (C-300, chloroform:methanol=50:1) to give the title compound (76 mg, 44%) as a white solid.

reactant | 2-Amino-5-(4-fluorophenyl)-3-nitropyridine | 0.86 mmol, 200 mg | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)F | C11H8FN3O2
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 2,3-diamino-5-(4-fluorophenyl)pyridine | 76 mg, 44% | NC1=NC=C(C=C1N)C1=CC=C(C=C1)F | C11H10FN3
